US06432656B1
Preparation of N-[2-Hydroxy-3-(4-chloro-(1-naphthoxy))propyl]-1,1-dimethyl-2-(4-methoxyphenyl)ethylamine Hydrochloride, Compound 108
Using the method of Example 5, supra, 1,2-epoxy-3-[4-chloro-(1-naphthoxy)]propane (469 mg, 2 mmol) and 1,1-dimethyl-2-(4-methoxyphenyl)ethylamine (120 mg, 0.67 mmol) yielded, after preparative TLC and RP-HPLC, 131 mg of the title compound as a white solid: GC/EI-MS, m/z (rel. int.) 414 (M+, 0.5), 398 (1), 292 (100), 121 (33), 71 (43).

reactant | 1,2-epoxy-3-[4-chloro-(1-naphthoxy)]propane | 2 mmol, 469 mg | O1CC1COC1=CC=C(C2=CC=CC=C12)Cl | C13H11ClO2
reactant | 1,1-dimethyl-2-(4-methoxyphenyl)ethylamine | 0.67 mmol, 120 mg | CC(CC1=CC=C(C=C1)OC)(C)N | C11H17NO
product | N-[2-Hydroxy-3-(4-chloro-(1-naphthoxy))propyl]-1,1-dimethyl-2-(4-methoxyphenyl)ethylamine Hydrochloride | 131 mg | Cl.OC(CNC(CC1=CC=C(C=C1)OC)(C)C)COC1=CC=C(C2=CC=CC=C12)Cl | InChI=1S/C24H28ClNO3.ClH/c1-24(2,14-17-8-10-19(28-3)11-9-17)26-15-18(27)16-29-23-13-12-22(25)20-6-4-5-7-21(20)23;/h4-13,18,26-27H,14-16H2,1-3H3;1H
